US04711952
(f) Benzyloxycarbonylglutaminyl-glycyl-glycine methyl ester
A suspension of glycyl-glycine methyl ester hydrochloride (1.9 g; 10 mmoles) in a dimethylformamide-dichloromethane (1:2) mixture (30 ml) is admixed with N-ethylpiperidine (1.4 ml) and stirred for 2 hours at room temperature. After that benzyloxycarbonylglutamine pentachlorphenyl ester (5.3 g; 10 mmoles) is added and the reaction mixture is stirred at room temperature a further 4 hours. After 8 hours of standing, the precipitated crystalline product is separated and crystallized from methanol - dichloromethane. Yield 2.5 g (61%), m.p. 129°-134° C., after additional crystallization from methanol 132°-134° C. Rf 0.57/S1, 0.78/S2⟦alpha⟧sub.D20 -8.5° (c 0.2; 50% acetic acid). Composition: C18H24N4O7.1/2H2O.

reactant | glycyl-glycine methyl ester hydrochloride | 10 mmoles, 1.9 g | Cl.COC(CNC(CN)=O)=O
reactant | N-ethylpiperidine | 1.4 ml | C(C)N1CCCCC1 | C7H15N
reactant | benzyloxycarbonylglutamine pentachlorphenyl ester | 10 mmoles, 5.3 g | ClC1=C(C(=C(C(=C1OC([C@@H](NC(=O)OCC1=CC=CC=C1)CCC(N)=O)=O)Cl)Cl)Cl)Cl | C19H15Cl5N2O5
solvent | dimethylformamide dichloromethane | CN(C=O)C.ClCCl
product | Benzyloxycarbonylglutaminyl-glycyl-glycine methyl ester | COC(CNC(CNC([C@@H](NC(=O)OCC1=CC=CC=C1)CCC(N)=O)=O)=O)=O | C18H24N4O7
